US04765825
Preparation of dimethyl-4-[4'-(2",4"-dichloro-phenoxy)-phenoxy]-2-pentenoyl-malonate
From 4.6 g of sodium, 26 g of dimethyl malonate and 60 ml of ether a dimethyl sodium malonate solution is prepared which is added dropwise under stirring to a mixture of 37 g of 4-[4'-(2",4"-dichloro-phenoxy)-phenoxy]-2-pentenoyl chloride and 50 ml of ether. The reaction mixture is heated to boiling for 2 hours and worked up as described in Example 1. Thus 37 g of the faint yellow crystalline desired compound are obtained, yield 79%, mp.: 60°-63° C.

reactant | sodium | 4.6 g | [Na] | Na
reactant | dimethyl malonate | 26 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 4-[4'-(2",4"-dichloro-phenoxy)-phenoxy]-2-pentenoyl chloride | 37 g | ClC1=C(OC2=CC=C(OC(C=CC(=O)Cl)C)C=C2)C=CC(=C1)Cl | C17H13Cl3O3
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
product | dimethyl-4-[4'-(2",4"-dichloro-phenoxy)-phenoxy]-2-pentenoyl-malonate | 37 g, yield 79% | COC(C(C(=O)OC)C(C=CC(C)OC1=CC=C(C=C1)OC1=C(C=C(C=C1)Cl)Cl)=O)=O | C22H20Cl2O7
